US07419967B2
tert-Butyl-N-((1S,2R)-1-benzyl-3-(isopropyloxy)(2-[(methylsulfonyl)amino]benzimidazol-5-ylsulfonyl)amino-2-hydroxypropyl)carbamate.
tert-Butyl-N-((1S,2R)-1-benzyl-3-(isopropyloxy)amino-2-hydroxypropyl)carbamate (86 mg, 0.25 mmol) was combined with 2-[(methylsulfonyl)amino]benzimidazol-5-ylsulfonyl chloride (77 mg, 0.25 mmol) in anhydrous pyridine (1 ml) with a catalytic amount of N,N-dimethylaminopyridine. The reaction was stirred at room temperature overnight. The solvent was evaporated under vacuum. The crude mixture was diluted in EtOAc and washed with water and brine. Organic phase was dried with MgSO4 and solvent was removed in vacuo. Purification by TLC prep (2% MeOH/CH2Cl2). Recovered 56 mg (37%) of product as a white solid. HPLC showed the material to be 98% pure; Ret. time=9.87 min. 1H NMR (CDCl3): 7.12-8.04 (m, 8H), 6.5 (m, 1H), 4.47-4.51 (m, 2H), 3.68 (m, 2H), 3.22 (s, 3H), 2.81-2.88 (m, 3H), 1.75 (m, 2H), 1.22 (s, 9H), 1.16 (d, 6H). MS (ES+): obs. M+H@ 612.1 amu.

reactant | tert-Butyl-N-((1S,2R)-1-benzyl-3-(isopropyloxy)amino-2-hydroxypropyl)carbamate | 0.25 mmol, 86 mg | C(C)(C)(C)OC(N[C@H]([C@@H](CNOC(C)C)O)CC1=CC=CC=C1)=O | C18H30N2O4
reactant | 2-[(methylsulfonyl)amino]benzimidazol-5-ylsulfonyl chloride | 0.25 mmol, 77 mg | CS(=O)(=O)NC=1NC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C8H8ClN3O4S2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl-N-((1S,2R)-1-benzyl-3-(isopropyloxy)(2-[(methylsulfonyl)amino]benzimidazol-5-ylsulfonyl)amino-2-hydroxypropyl)carbamate | C(C)(C)(C)OC(N[C@H]([C@H](C(OC(C)C)NS(=O)(=O)C1=CC2=C(N=C(N2)NS(=O)(=O)C)C=C1)O)CC1=CC=CC=C1)=O | C26H37N5O8S2
